US08440689B2
B. 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(pyrazolo[1,5-a]pyridin-3-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A mixture of tert-butyl (1S,2R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-4-(pyrazolo[1,5-a]pyridin-3-yl)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (52 mg, 0.082 mmol) and TFA (1 mL, 12.98 mmol) was stirred at 65° C. for 30 min. The mixture was concentrated and the residue was purified by preparative HPLC to give the title compound as a white solid (15 mg, 47.8%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.21-2.07 (m, 8H), 3.31 (br s, 1H), 4.18-4.26 (m, 1H), 4.46 (br s, 2H), 6.61 (br s, 1H), 7.09 (d, J=6.35 Hz, 1H), 7.49 (d, J=7.32, 1H), 8.36 (br s, 1H), 8.59 (d, J=7.81 Hz, 1H), 8.83 (d, J=6.83 Hz, 1H), 9.56 (br s, 1H). [M+H] calc'd for C20H21FN6O, 381. found, 381.

reactant | tert-butyl (1S,2R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-4-(pyrazolo[1,5-a]pyridin-3-yl)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.082 mmol, 52 mg | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)C=2C=NN3C2C=CC=C3)=O)C=CC(=C1)OC | C34H39FN6O5
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(pyrazolo[1,5-a]pyridin-3-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 15 mg, 47.8% | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN3C1C=CC=C3)C(NC2)=O)F | C20H21FN6O
